US09422244B2
10 g (1 mol equiv.) 4,4-Dimethyl-4,5-dihydro-3H-pyrazole (synthesized as described in WO 2008/034863) and 11.6 mL (1.3 mol equiv.) ethyl isothiocyanate were added to 100 mL ethanol. The reaction mixture was refluxed for 1 hour. Silica gel was added and volatiles were removed in vacuo. Purification by flash chromatography on silica gel (Et2O:PA=1:2) afforded 15.2 g (80%) of 4,4-dimethyl-4,5-dihydro-pyrazole-1-carbothioic acid ethylamide. 1H NMR (400 MHz, CDCl3) δ 1.19-1.30 (m, 9H), 3.63-3.72 (m, 2H), 3.93 (s, 2H), 6.74 (s, 1H), 7.14 (br.s., 1H).

reactant | 4,4-Dimethyl-4,5-dihydro-3H-pyrazole | 1 mol, 10 g | CC1(CN=NC1)C | C5H10N2
reactant | ethyl isothiocyanate | 1.3 mol, 11.6 mL | C(C)N=C=S | C3H5NS
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 4,4-dimethyl-4,5-dihydro-pyrazole-1-carbothioic acid ethylamide | 15.2 g, 80% | C(C)NC(=S)N1N=CC(C1)(C)C | C8H15N3S
